US04675320
Using the method of Example 1, 5-bromomethyl-2-nitro-3-phenylbenzofuran is reacted with N-phenylpiperazine in ethanol to provide yellow needles of 4-(2-nitro-3-phenyl-5-benzofuranylmethyl)-1-phenylpiperazine, m.p. 155°-157° C., having the structure

reactant | 5-bromomethyl-2-nitro-3-phenylbenzofuran | BrCC=1C=CC2=C(C(=C(O2)[N+](=O)[O-])C2=CC=CC=C2)C1 | C15H10BrNO3
reactant | N-phenylpiperazine | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
solvent | ethanol | C(C)O | C2H6O
product | 4-(2-nitro-3-phenyl-5-benzofuranylmethyl)-1-phenylpiperazine | [N+](=O)([O-])C=1OC2=C(C1C1=CC=CC=C1)C=C(C=C2)CN2CCN(CC2)C2=CC=CC=C2 | C25H23N3O3
